US06372759B1
B) 2-[(4-t-Butylbenzoyl)amino]-N-(6-indazolyl)-5-nitrobenzamide
To a stirring solution of 6-nitro-2-[4-t-butylphenyl]-4H-3,1-benzoxazin-4-one (1.5 g, 4.62 mmol) in toluene (25 mL) was added 6-aminoindazole (560 mg, 4.2 mmol) and the solution was heated to reflux. After about 24 h, the solution was cooled, filtered and the solid was washed with diethyl ether. The product was then chromatographed over silica gel, eluting with 25% ethyl acetate/hexanes. The product containing fractions were combined and concentrated in vacuo to give 810 mg (42%) of pale yellow solid.

reactant | 6-nitro-2-[4-t-butylphenyl]-4H-3,1-benzoxazin-4-one | 4.62 mmol, 1.5 g | [N+](=O)([O-])C=1C=CC2=C(C(OC(=N2)C2=CC=C(C=C2)C(C)(C)C)=O)C1 | C18H16N2O4
reactant | 6-aminoindazole | 4.2 mmol, 560 mg | NC1=CC=C2C=NNC2=C1 | C7H7N3
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | 2-[(4-t-Butylbenzoyl)amino]-N-(6-indazolyl)-5-nitrobenzamide | 810 mg, 42% | C(C)(C)(C)C1=CC=C(C(=O)NC2=C(C(=O)NC3=CC=C4C=NNC4=C3)C=C(C=C2)[N+](=O)[O-])C=C1 | C25H23N5O4
